US07192964B2
A dimethylformamide solution (20 ml) of 1.93 ml of 3-fluoroaniline, 4.60 ml of α-bromo-γ-butyrolactone and 4.24 g of sodium carbonate was heated with stirring at 80° C. for 15 hours. The reaction liquid was cooled to room temperature, diluted with water and extracted with ether. The ether extract was dried over anhydrous magnesium sulfate, and thereafter the solvent was distilled off to provide 4.64 g of crude 3-[(3-fluorophenyl)amino]-dihydrofuran-2(3H)-one as a pale yellow, oily substance.

reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 3-fluoroaniline | 1.93 ml | FC=1C=C(N)C=CC1 | C6H6FN
reactant | α-bromo-γ-butyrolactone | 4.60 ml | BrC1C(=O)OCC1 | C4H5BrO2
reactant | sodium carbonate | 4.24 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 3-[(3-fluorophenyl)amino]-dihydrofuran-2(3H)-one | 4.64 g | FC=1C=C(C=CC1)NC1C(OCC1)=O | C10H10FNO2
